// The string module.

// Indexes into the string.
inl index (str : string) (i : u64): char = !!!!StringIndex(str,i)
// Returns the length of the string.
inl length forall t {int}. (str : string): t = !!!!StringLength(`t,str)
// Slice the string between the two points.
inl slice (str : string) {from=(a : u64) to=(b : u64)} = !!!!StringSlice(str,a,b)